US08629270B2
Benzyl 3-(benzoylcarbamothioylamino)-4-(hydroxymethyl)-3-phenyl-pyrrolidine-1-carboxylate
Benzoyl isothiocyanate (15 mL, 112 mmol) is added to a 0° C. solution of benzyl 3-amino-4-(hydroxymethyl)-3-phenyl-pyrrolidine-1-carboxylate (34.7 g, 106 mmol) in tetrahydrofuran (347 mL). The mixture is warmed to room temperature and stirred for 1 hour. Brine (300 mL) is added, the aqueous layer is separated, the organic layer is dried over magnesium sulfate, and concentrated to give the title compound (51 g, 98%). ES/MS (m/e): 390 (M+H).

reactant | Benzoyl isothiocyanate | 112 mmol, 15 mL | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | benzyl 3-amino-4-(hydroxymethyl)-3-phenyl-pyrrolidine-1-carboxylate | 106 mmol, 34.7 g | NC1(CN(CC1CO)C(=O)OCC1=CC=CC=C1)C1=CC=CC=C1 | C19H22N2O3
solvent | tetrahydrofuran | 347 mL | O1CCCC1 | C4H8O
solvent | Brine | 300 mL | [Cl-].[Na+].O
product | Benzyl 3-(benzoylcarbamothioylamino)-4-(hydroxymethyl)-3-phenyl-pyrrolidine-1-carboxylate | 51 g, 98% | C(C1=CC=CC=C1)(=O)NC(=S)NC1(CN(CC1CO)C(=O)OCC1=CC=CC=C1)C1=CC=CC=C1 | C27H27N3O4S
